US05696117
3,4-Dihydro-2-(2-hydroxyethyl)-3-oxo-4-(4-picolyl)-2H-1,4-benzoxazine
Prepared from 2-(2-tert-butyldimethylsiloxyethyl)-3,4-dihydro-3-oxo-2H-1,4-benzoxazine by Methods F and H, alkylating with 4-chloromethylpyridine, in 12% yield and isolated as a beige solid, mp 153°-154° C.; IR (KBr) 3204, 1679, 1505, 1407, 1283, 1256, 1077, 1065, 750 cm-1 ; 1H NMR (CDCl3) δ2.18-2.38 (m, 3H), 3.93 (br q, J=3.9 Hz, 2H), 4.88 (dd, J=7.7, 5.4 Hz, 1H), 5.15 (s, 2H), 6.73 (d, J=7.6 Hz, 1H), 6.92 (td, J=6.7, 3.2 Hz, 1H), 6.98-7.06 (m, 2H), 7.15 (d, J=5.9 Hz, 2H), 8.56 (dd, J=4.5, 1.5 Hz, 2H); MH+ at m/z=285; Anal. Calc'd for C16 H16N2O3 : C, 67.59; H, 5.67; N, 9.85. Found: C, 67.67; H, 5.78; N, 9.79.

reactant | 2-(2-tert-butyldimethylsiloxyethyl)-3,4-dihydro-3-oxo-2H-1,4-benzoxazine | O([Si](C)(C)C(C)(C)C)CCC1OC2=C(NC1=O)C=CC=C2 | C16H25NO3Si
reactant | 4-chloromethylpyridine | ClCC1=CC=NC=C1 | C6H6ClN
reactant | KBr | [K+].[Br-]
product | 3,4-Dihydro-2-(2-hydroxyethyl)-3-oxo-4-(4-picolyl)-2H-1,4-benzoxazine | 12% yield | OCCC1OC2=C(N(C1=O)CC1=CC=NC=C1)C=CC=C2 | C16H16N2O3
